US07153878B2
A solution of 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde (1.32 g, 5.16 mmol) and 50 mL tetrahydrofuran is stirred at 0° C. Methyl magnesium bromide (2.2 mL, 6.71 mmol, 3M) is added dropwise and the resulting mixture is allowed to stir at room temperature 30 min. The reaction is not complete, so an additional amound of methyl magnesium bromide (1 mL, 3 mmol) is added and the reaction stirred an additional 1 hr at room temperature. The mixture is cooled on an ice/water bath and aqueous ammonium chloride (10 mL) is added. The product is extracted with three 75 mL portions of ethyl acetate, the combined extracts are dried over anhydrous magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel chromatography eluting with a mixture of 1:1 hexanes:ethyl acetate to afford 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol as an ivory solid, 1.12 g, 80%. MS (M++1) 272.

reactant | 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde | 5.16 mmol, 1.32 g | CC=1N=C(OC1C=O)C1=CC=C(C=C1)C(F)(F)F | C12H8F3NO2
reactant | Methyl magnesium bromide | 6.71 mmol, 3M, 2.2 mL | C[Mg]Br
reactant | methyl magnesium bromide | 3 mmol, 1 mL | C[Mg]Br
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol | CC=1N=C(OC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
